US04400323
m-Chloroperbenzoic acid (1.00 mmol) is added to a solution of (3S,4R)-1-(t-butyldimethylsilyl-3-[(R)-1-hydroxyethyl]-4-(2-oxo-2-trimethylsilylethyl)azetidin-2-one (1.00 mmol) in chloroform (4 ml). The resulting solution is heated at reflux for 4 hr, then cooled, concentrated in vacuo, and the residue chromatographed on silica gel (2% glacial acetic acid in methylene chloride). (3S, 4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-carboxymethyl-azetidin-2-one, 238 mg (83%) is isolated as a colorless solid, Rf =0.25. n.m.r. (CDCl3 and D2O) δ3.6-4.3 (2H, m, H-5, H-8), δ2.98 (1H, dd, J=7, 2.1 H-6), δ 2.7 (2H,d of ABq)-CH2CO2H), δ1.29 (3H, d, J=6, CH3 --)δ 0.95 (9H, S, Si±), δ 0.25 (6 H, S, (CH3)2 --Si).

reactant | m-Chloroperbenzoic acid | 1.00 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | t-butyldimethylsilyl-3-[(R)-1-hydroxyethyl]-4-(2-oxo-2-trimethylsilylethyl)azetidin-2-one | 1.00 mmol | [Si](C)(C)(C(C)(C)C)N1C(C(C1CC([Si](C)(C)C)=O)[C@@H](C)O)=O | C16H33NO3Si2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | (3S, 4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-carboxymethyl-azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(=O)O)[C@@H](C)O)=O | C13H25NO4Si
